US04150129
The mixture of 8.23 g of 3-(2-isopropylaminopropyl)-4-(4-methoxyphenyl)-1,5,6,7-tetrahydro-2H-azepinone, 2.25 ml of methyl iodide, 3.59 g of potassium carbonate and 100 ml of absolute ethanol is refluxed for five hours and evaporated. The residue is suspended in 100 ml of water and the suspension extracted with diethyl ether. The extract is dried, evaporated and the residue crystallized from ethanol-water to yield the 3-[2-(N-isopropyl-N-methylamino)-propyl]-4-(4-methoxyphenyl)-1,5,6,7-tetrahydro-2H-azepinone melting at 86°-88°.

reactant | 3-(2-isopropylaminopropyl)-4-(4-methoxyphenyl)-1,5,6,7-tetrahydro-2H-azepinone | 8.23 g | C(C)(C)NC(CC=1C(NCCCC1C1=CC=C(C=C1)OC)=O)C | C19H28N2O2
reactant | methyl iodide | 2.25 ml | CI | CH3I
reactant | potassium carbonate | 3.59 g | C([O-])([O-])=O.[K+].[K+]
solvent | ethanol | 100 ml | C(C)O | C2H6O
product | 3-[2-(N-isopropyl-N-methylamino)-propyl]-4-(4-methoxyphenyl)-1,5,6,7-tetrahydro-2H-azepinone | C(C)(C)N(C)C(CC=1C(NCCCC1C1=CC=C(C=C1)OC)=O)C | C20H30N2O2
